US08124629B2
Triphenylphosphine (14.9 g, 56.8 mmol), carbon tetrachloride (35 mL, 360 mmol), (4-benzylsulfanyl-phenyl)-methanol (6.33 g, 27.5 mmol), and tetrahydrofuran (120 mL) were combined and stirred at reflux temperature overnight. The reaction mixture was cooled to room temperature, then partitioned between ethyl acetate and water (750 mL). The organic phase was dried over MgSO4, filtered, and concentrated to give the crude product. Flash chromatography (Analogix SuperFlash™ column, 100% hexanes -25% ethyl acetate in hexanes) afforded 4.57 g (67%) of 4-(benzylsulfanyl)benzyl chloride as an off-white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 7.16-7.44 (m, 9 H), 4.72 (s, 2 H), 4.26 (s, 2 H).

reactant | Triphenylphosphine | 56.8 mmol, 14.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 360 mmol, 35 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | (4-benzylsulfanyl-phenyl)-methanol | 27.5 mmol, 6.33 g | C(C1=CC=CC=C1)SC1=CC=C(C=C1)CO | C14H14OS
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
product | 4-(benzylsulfanyl)benzyl chloride | 4.57 g, 67% | C(C1=CC=CC=C1)SC1=CC=C(CCl)C=C1 | C14H13ClS
